US06107329
5-Fluoro-1H-indole-2-carboxylic acid [(1S)-(4-fluoro-benzyl)-2-morpholin-4-yl-2-oxo-ethyl]-amide
(S)-2-Amino-3-(4-fluoro-phenyl)-1-morpholin-4-yl-propan-1-one hydrochloride (0.48 mmol) and 5-fluoro-1H-indole-2-carboxylic acid (0.48 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 48 hour reaction time, washed with acid first then base) and the product purified by chromatography on silica gel eluted with 20, 30, 40, 50 and 75% ethyl acetate in hexanes. Yield 189 mg, 95%; HPLC (60/40) 4.76 minutes (97%); PBMS 414 (MH+, 100%);

reactant | (S)-2-Amino-3-(4-fluoro-phenyl)-1-morpholin-4-yl-propan-1-one hydrochloride | 0.48 mmol | Cl.N[C@H](C(=O)N1CCOCC1)CC1=CC=C(C=C1)F
reactant | 5-fluoro-1H-indole-2-carboxylic acid | 0.48 mmol | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
product | 5-Fluoro-1H-indole-2-carboxylic acid [(1S)-(4-fluoro-benzyl)-2-morpholin-4-yl-2-oxo-ethyl]-amide | FC1=CC=C(C[C@@H](C(=O)N2CCOCC2)NC(=O)C=2NC3=CC=C(C=C3C2)F)C=C1 | C22H21F2N3O3
